data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
998,1087,[CH3:15][N-:16][O+:17]=[C:18]([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH:11]=[CH:12][CH:13]1[O:14]3)[N:16]([CH3:15])[O:17][C:18]2([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,7.761747942549838,-37.07268986546517
1318,1447,[CH3:13][CH:14]=[NH+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[NH:15][CH:14]2[CH3:13],water,298.15,17.159099682919248,-13.153189629997604
683,743,[CH3:15][C:16]#[N+:17][CH-:18][C:19](=[O:20])[O:21][CH3:22].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[CH:18]([C:19](=[O:20])[O:21][CH3:22])[N:17]=[C:16]2[CH3:15],water,298.15,8.655248667854117,-37.69786653807365
3294,3733,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[CH:9]=[N+:10]([CH3:11])[C-:12]([CH3:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:12]([CH3:13])([C:14]([CH3:15])=[O:16])[N:10]([CH3:11])[CH:9]1[C:7]([O:6][CH3:5])=[O:8],water,298.15,30.608597031733552,-27.30612771091436
2050,2275,[CH3:15][NH:16][C:17](=[O:18])[C-:19]([C:20](=[O:21])[NH:22][CH3:23])[N+:24]([CH3:25])=[C:26]([CH3:27])[C:28]([CH3:29])=[O:30].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([C:20](=[O:21])[NH:22][CH3:23])[N:24]([CH3:25])[C:26]3([CH3:27])[C:28]([CH3:29])=[O:30],water,298.15,23.24823523137249,-43.0938142487792
1195,1299,[CH3:13][C:14](=[O:15])[c:16]1[o:17][c:18](=[O:19])[c-:20]([C:21]([CH3:22])=[O:23])[n+:24]1[CH3:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:16]1([C:14]([CH3:13])=[O:15])[O:17][C:18](=[O:19])[C:20]2([C:21]([CH3:22])=[O:23])[N:24]1[CH3:25],water,298.15,25.238644513409533,3.1578075786240047
3663,4183,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C:12]#[N+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:12]([C:11]#[N:10])=[N:13][N:14]1[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,11.178441037588202,-37.66714629605017
5246,5951,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([C:19]#[N:20])[NH+:21]=[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([C:19]#[N:20])[NH:21][C:22]2([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,41.845732717376215,21.494518974095573
1742,1929,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][NH:22][C:23](=[O:24])[C:25]#[N+:26][N-:27][C:28]#[N:29]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[c:6]2[c:7]([c:25]([C:23]([NH:22][CH3:21])=[O:24])[n:26][n:27]2[C:28]#[N:29])[C:8]([C:9]#[N:10])([c:11]2[cH:12][cH:13][cH:14][cH:15][cH:16]2)[CH2:17][CH2:18][CH2:19][CH2:20]1,water,298.15,10.341705151123056,-81.2725976421793
3630,4149,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([N+:15]#[N:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:16]=[N:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:17]([CH3:18])=[O:19],water,298.15,25.64201353010905,-0.8588081224368301
1041,1136,[CH2:1]=[CH:2][C:3](=[O:4])[O:5][CH3:6].[CH3:7][C:8](=[O:9])[C:10]([c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1)=[N+:17]([CH3:18])[CH-:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]([C:3](=[O:4])[O:5][CH3:6])[CH:19]([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[N:17]([CH3:18])[C:10]1([C:8]([CH3:7])=[O:9])[c:11]1[cH:12][cH:13][cH:14][cH:15][cH:16]1,water,298.15,12.456861899171164,-24.079819225084897
3080,3461,[CH2:1]=[CH2:2].[CH3:3][NH:4][C:5](=[O:6])[C:7]#[N+:8][C-:9]([C:10]#[N:11])[C:12](=[O:13])[NH:14][CH3:15]>>[CH2:1]1[CH2:2][C:9]([C:10]#[N:11])([C:12](=[O:13])[NH:14][CH3:15])[N:8]=[C:7]1[C:5]([NH:4][CH3:3])=[O:6],water,298.15,12.579564113850337,-49.11280090242357
